US05192781
A stream of H2S is bubbled into a mixture of methyl cyanoacetate (70 g, 710 mmol), pyridine (70 ml, 710 mmol) and triethylamine (49.6 ml, 350 mmol). The exothermic reaction, which is cooled with an ice bath, is followed by TLC. When the reaction is complete, the reaction mixture is washed with a dilute solution of acid and extracted with ether. After drying over magnesium sulfate and concentration under vacuum, an orange oil is obtained which crystallizes. The yellow solid obtained is washed with ether and then filtered off to give 83.3 g of methyl thioacetamidoacetate melting at 78°-9° C.

reactant | H2S | S | H2S
reactant | methyl cyanoacetate | 710 mmol, 70 g | C(#N)CC(=O)OC | C4H5NO2
reactant | pyridine | 710 mmol, 70 ml | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 350 mmol, 49.6 ml | C(C)N(CC)CC | C6H15N
product | methyl thioacetamidoacetate | 83.3 g | C(C)(=S)NCC(=O)OC | C5H9NO2S
